Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fatigue x 1 week, rash for several weeks 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ homeless female with hypothyroidism (not 
consistently taking levothyroxine) who presented with a rash x ___s chills and cough x 1 week. 

Pt reported that about ___ weeks ago she first noticed a rash 
forming on her extremities, but quickly spread to whole body. 
The rash was described as discrete red bumps, mildly itchy. 
Patient noted that the R lower leg became swollen and pink after 
an open wound. She noted she had been sleeping in shelters and 
outside. Noticed clothing and belongings had been covered in 
bugs. On further discussion, remembers getting a sweater from a 
friend
whose house is full of bugs. 

In addition to the rash, patient noted she had been "feeling 
off" and fatigued for about one week. Complained of a cough and 
sore throat during this time frame as well as possible 
intermittent chills in the past couple days. Denies headache, 
CP, abdominal pain, urinary symptoms, or diarrhea, constipation, 
hematuria, melena, hematochezia.

In the ED, initial VS were: 101.0 115 116/67 98% RA 

Exam notable for: 
Disheveled appearing, poor hygiene, bug found on pt's clothes. 
Normal CV, lung exam, Numerous isolated papules w/ hemorrhagic 
crusting over arms, legs, and torso. Minimal involvement of 
wrists, palms, or fingers. Evidence of linear excoriations on 
arms. An area of well circumscribed ulceration w/ necrotic 
eschar about 1 inch diameter on medial aspect of R ankle, no 
purulence
or drainage. Surrounding skin is erythematous, slightly swollen,
taut, and hot to touch. Lymph- Palpable L inguinal lymph node
 
Labs showed:  
TSH was 12
WBC 18.4, Hgb 10.6. plts 415
Chem7 WNL
UA with 6 WBC, mod bacteria, large blood, 4 epi
Urine tox negative
BCx x 2, UCx collected

Imaging showed: 
CXR
No evidence of acute cardiopulmonary process.

Patient received: 
1g CTX

Decision made to admit patient given concern over patient's 
social situation/low likelihood for follow up if discharged. 

Transfer VS were: 98.8 100 100/63 18 98% RA  

On arrival to the floor, patient reports overall feeling 
slightly better in terms of fatigue. Has ongoing 
discomfort/irritation and pruritis from rash. No recent weight 
changes, no depression.
 
REVIEW OF SYSTEMS:  
Negative aside from as mentioned above  

 
Past Medical History:
Hypothyroidism
Homelessness
 
Social History:
___
Family History:
No family history of thyroid disease
 
Physical Exam:
ADMISSION PHYSICAL
==================
VS: 97.8 ___ 100%  
GENERAL: NAD, diffuse whole body rash 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Numerous papules throughout body, excoriated in a number 
of
areas, worse on back. No involvement of interweb area of fingers
or in crease of elbow. crusted over areas on torso, arms and
legs. Small papules on face. Increased area of erythema on R
ankle, medial side, with some ulceration and mild swelling.

DISCHARGE PHYSICAL
==================
VS: 99.2PO, 97/60, 79, 16, 98% RA 
GENERAL: NAD, diffuse whole body rash 
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Numerous papules throughout body, excoriated in a number 
of
areas, worse on back. No involvement of interweb area of fingers
or in crease of elbow. Crusted over areas on torso, arms and
legs. Small papules on face. Increased area of erythema on R
ankle, medial side, with some ulceration and mild swelling.
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:45PM BLOOD WBC-18.4* RBC-3.85* Hgb-10.6* Hct-33.6* 
MCV-87 MCH-27.5 MCHC-31.5* RDW-13.8 RDWSD-43.7 Plt ___
___ 06:45PM BLOOD Neuts-72.4* Lymphs-14.7* Monos-8.7 
Eos-3.1 Baso-0.4 Im ___ AbsNeut-13.31* AbsLymp-2.71 
AbsMono-1.60* AbsEos-0.57* AbsBaso-0.08
___ 06:45PM BLOOD Glucose-79 UreaN-10 Creat-0.7 Na-139 
K-4.4 Cl-101 HCO3-27 AnGap-11
___ 05:17AM BLOOD Calcium-8.4 Phos-4.0 Mg-1.9 Iron-28*
___ 05:17AM BLOOD calTIBC-337 Ferritn-11* TRF-259
___:45PM BLOOD TSH-12*
___ 08:15PM URINE Color-Yellow Appear-Slcldy* Sp ___
___ 08:15PM URINE Blood-LG* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-1 pH-7.0 Leuks-NEG
___ 08:15PM URINE RBC-79* WBC-6* Bacteri-MOD* Yeast-NONE 
Epi-4
___ 08:15PM URINE AmorphX-MOD*
___ 08:15PM URINE Mucous-RARE*

___ 08:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICRO
=====
Urine Culture - ___ likely contaminated
Blood Culture - ___ pending, no growth to date

IMAGING
=======
CXR ___

FINDINGS:  
There is no focal consolidation, pleural effusion, pulmonary 
edema, or 
pneumothorax. The cardiomediastinal contour is normal. 
  
IMPRESSION:  
No evidence of acute cardiopulmonary process. 

DISCHARGE LABS
==============
___ 04:25AM BLOOD WBC-9.4 RBC-3.68* Hgb-9.9* Hct-32.3* 
MCV-88 MCH-26.9 MCHC-30.7* RDW-13.8 RDWSD-44.2 Plt ___
___ 04:25AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+* Ovalocy-1+*
___ 04:25AM BLOOD Glucose-91 UreaN-12 Creat-0.7 Na-141 
K-4.6 Cl-106 HCO3-25 AnGap-10
___ 04:25AM BLOOD Calcium-8.6 Phos-4.8* Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with history of hypothyroidism and 
homelessness, who presented with with fatigue, rash, fever, and 
leukocytosis. Rash was diffuse with numerous excoriations c/w 
body lice that was planned to be treated with permethrin cream 
that patient applied for less than the recommended number of 
hours. Patient also had a right ankle wound, circular ( 1 inch 
diameter) that was debrided by podiatry and antibiotics were 
given out of c/f wound infection. Fever and leukocytosis 
improved with vancomycin that was switched to PO Bactrim upon 
discharge. 

ACUTE ISSUES: 
=============
#Leukocytosis
#Rash
#Fever
Patient's presentation included T: ___ and WBC:18. Skin looked 
inflamed overall, and patient had been seen with bugs on 
clothes, and reported seeing them on her body likely body lice 
that was treated with permethrin. She took off the permethrin 
before the suggested number of hours however. Patient was 
treated with IV vanc with improvement in fever and leukocytosis 
and switched to PO Bactrim x 5 on discharge. 

#Lethargy
Likely in setting of infection per above, especially given 
timing of lethargy over the past few days to a week, but also 
noted to be hypothyroid with TSH of 12. Continued on 75 mcg 
synthroid while inpatient although synthroid pills found at the 
bedside so patient likely not taking them.

#Homelessness
Patient with complicated social history, currently homeless, 
sleeping at shelters and outdoors. Not taking medication as 
prescribed (notes she receives it from ___).

TRANSITIONAL ISSUES 
==================== 
[] Complete Bactrim (1 tab twice a day) course for 5 days (last 
day ___
[] Patient should establish care with PCP in order to have 
permethrin cream treatment in one week to ensure body lice 
clearance

CODE STATUS: Full (presumed) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*10 Tablet Refills:*0 
2.  Levothyroxine Sodium 75 mcg PO DAILY 
RX *levothyroxine 75 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Body lice
Cellulitis
Anemia

SECONDARY DIAGNOSIS
===================
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted?
-You were admitted for a rash, fever and lethargy. Please, see 
below for the details of your admission.

What happened while I was admitted in the hospital?
-You were found to have a fever, lethargy and a diffuse body 
rash that was determined to be due to body lice.
-You were treated with permethrin cream for body lice.
-You were treated with IV antibiotics for an ankle wound that 
resolved your fever and were switched to oral antibiotics when 
you were discharged.  

What should I do after I leave the hospital?
-Please, take Bactrim (1 tab in the morning and in the evening) 
for 5 days (last day ___.
-You should establish care with a primary care physician in 
order to ensure that you do not need another treatment with 
permethrin cream for persistent body lice. 

We wish you the very best!

Your ___ Care Team

 
 
Followup Instructions:
___